US05495020
Employing ethyl 1-(2-acetyloxyethyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylate (5.80 g) and conc. hydrochloric acid: 90% acetic acid (1:4) (100 ml), the procedure of Reference Example 23 is repeated to give 1-(2-hydroxyethyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylic acid (4.04 g), as pale yellow flakes (recrystallized from ethanol), m.p. 244.5°-247° C.

reactant | ethyl 1-(2-acetyloxyethyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylate | 5.80 g | C(C)(=O)OCCN1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)OCC | C17H16F3NO5
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 1-(2-hydroxyethyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3-carboxylic acid | 4.04 g | OCCN1C=C(C(C2=C(C(=C(C(=C12)F)F)F)C)=O)C(=O)O | C13H10F3NO4
